US04463173
A solution of 2-fluoro-1-triphenylmethylimidazole (3.28 g.) in dry THF (33 ml.) was treated, under argon, at -75° with two equivalents of t-butyl lithium (10 ml. of a 1.93M solution in pentane). After stirring 3 hours at -75°, DMF (1.5 ml.) was added. The reaction mixture was kept a further hour at -75° then allowed to warm up slowly to room temperature. The reaction was worked up by diluting with ether, washing with 2N HCl followed by brine. The ether layer was concentrated under a steam of argon to give 4-formyl-2-fluoro-1-triphenylmethylimidazole, (2.2 g.) m.p. 177°-179°.

reactant | 2-fluoro-1-triphenylmethylimidazole | 3.28 g | FC=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17FN2
reactant | t-butyl lithium | two equivalents | C(C)(C)(C)[Li]
reactant | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | THF | 33 ml | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
solvent | ether | CCOCC | C4H10O
product | 4-formyl-2-fluoro-1-triphenylmethylimidazole | C(=O)C=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C23H17FN2O
